US06140344
To a room temperature solution of 1-(tert-butoxycarbonyl)-4-(3,4-dichlorobenzylidene)piperidine (6.4 g, 18.7 mmol) in dry THF (100 mL) under argon was added diborane (22.4 ml, 1 M in THF, 22.4 mmol) and the reaction mixture was stirred for 3 h. Water (20 ml) was slowly added dropwise to kill excess diborane. Tetrahydrofuran was remove in vacuo and ether (200 mL) was added. The reaction mixture was cooled in an ice bath and Jones reagent (take 18.6 g sodium dichromate hydrate, 14 mL conc. sulfuric acid and add enough water to make 93 mL solution) was added dropwise at a rate such that the reaction temperature stayed at about 25° C. The orange solution was stirred at room temperature 2 h. The organic layer was separated and the aqueous layer was extracted twice with ether. The combined organic layers were washed twice with dilute aqueous potassium carbonate solution, dried over anhydrous magnesium sulfate, and the organics were removed. The crude reaction mixtures was flash chromatographed on flash silica gel with a gradient of 10% ethyl acetate/hexane through 15% ethyl acetate/hexane to give 4-(3,4-dichlorobenzoyl)piperidine-1-carboxylic acid tert-butyl ester (3.8 g, 10.6 mmol).

reactant | 1-(tert-butoxycarbonyl)-4-(3,4-dichlorobenzylidene)piperidine | 18.7 mmol, 6.4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=CC1=CC(=C(C=C1)Cl)Cl | C17H21Cl2NO2
reactant | diborane | 22.4 mmol, 1 M, 22.4 ml | B#B | B2
reactant | Water | 20 ml | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-(3,4-dichlorobenzoyl)piperidine-1-carboxylic acid tert-butyl ester | 10.6 mmol, 3.8 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C1=CC(=C(C=C1)Cl)Cl)=O | C17H21Cl2NO3
